US08426420B2
ii) (S)-2-tert-Butoxycarbonylamino-5-(tert-butyl-diphenyl-silanyloxy)-pentanoic acid
To a solution of 1.9 g (S)-2-tert-Butoxycarbonylamino-5-(tert-butyl-diphenyl-silanyloxy)-pentanoic acid benzyl ester in 40 ml ethyl acetate were added 200 mg Pd/C (10%) and the suspension was stirred under an atmosphere of hydrogen (3 bar) for 16 h.

reactant | (S)-2-tert-Butoxycarbonylamino-5-(tert-butyl-diphenyl-silanyloxy)-pentanoic acid benzyl ester | 1.9 g | C(C1=CC=CC=C1)OC([C@H](CCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)NC(=O)OC(C)(C)C)=O | C33H43NO5Si
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | (S)-2-tert-Butoxycarbonylamino-5-(tert-butyl-diphenyl-silanyloxy)-pentanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C26H37NO5Si
